US07514451B2
Using 7-chloro-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (355 mg) and (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine (190 mg), the same procedure was followed as in Example 23 to give 7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid as a pale yellow powder (229 mg).

reactant | 7-chloro-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 355 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C15H6ClF3N2O3
reactant | (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine | 190 mg | C1(CC1)NC[C@H]1CNC[C@H]1F | C8H15FN2
product | 7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 229 mg | C1(CC1)NC[C@H]1CN(C[C@H]1F)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C23H20F4N4O3
